US04018920
A 300-ml flask equipped with a stirrer and thermomether was charged with 5.0 g (0.03 mol) of 1,2,3-benzoxthiazin-4-(3H)-one 2-oxide, 5.3 g (0.03 mol) of perchloromethyl mercaptan, 3.1 g (0.03 mol) of thiethylamine and 150 ml of methylene chloride. The resulting mixture was stirred at ambient temperature for 1 hour. At the end of this time, the reaction mixture was filtered and washed 3 times with equal amounts of water. After drying, the solvent was removed by evaporation. The crude product was passed through a 250-g silica-gel column using hexane, 10% ether/hexane, and 20% ether/hexane, respectively. Evaporation gave 4 g of 3-(trichloromethylthio)-1,2,3-benzoxathiazin-4-(3H)-one 2-oxide having a melting point of 65°-67° C.

reactant | 1,2,3-benzoxthiazin-4-(3H)-one 2-oxide | 0.03 mol, 5.0 g | O1S(NC(C2=C1C=CC=C2)=O)=O | C7H5NO3S
reactant | perchloromethyl mercaptan | 0.03 mol, 5.3 g | ClC(Cl)(Cl)S | CHCl3S
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 3-(trichloromethylthio)-1,2,3-benzoxathiazin-4-(3H)-one 2-oxide | 4 g | ClC(SN1S(OC2=C(C1=O)C=CC=C2)=O)(Cl)Cl | C8H4Cl3NO3S2
